Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is an ___ female with a history of hypertension and 
hypothyroidism who presents for evaluation of mechanical fall. 
She lost her balance while walking up the stairs from her 
basement at home and fell backwards down ___ stairs. She struck 
the posterior aspect of her head on a pain can and sustained a 
significant laceration. She was able to call for help and 
neighbors heard her and called EMS. They found her at the bottom 
of the stairs. They applied a pressure dressing to the scalp 
laceration and also identified a left lower extremity skin tear. 
She also has been complaining of lower sternal chest pain. She 
has no other complaints at this time. 
 
Past Medical History:
Past Medical History: 
-A-fib
-Hypertension

Past Surgical History:
-Denies
 
Social History:
___
Family History:
Family History:
-Non-Contributory
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION: 
Temp: 97.0 HR: 76 BP: 150/66 Resp: 16 O(2)Sat: 92 Low
Constitutional: Comfortable
HEENT: Stellate right occipital 5 cm laceration with active 
venous bleeding
no cspine tenderness
Chest: Clear to auscultation, no crepitus, sternum tender
Cardiovascular: Regular Rate and Rhythm
Abdominal: Nontender, Soft
Extr/Back: Range of motion of both hips
Skin: Left lower leg anterior skin tear, right scapular 
ecchymosis
Neuro: Speech fluent, nonfocal extremity motor exam
Psych: Normal mentation
___: No petechiae

PHYSICAL EXAM ON DISCHARGE:
VS: 97.9, 132/75, 60, 18, 94% Ra  
Gen: [x] NAD, [] AAOx3
CV: [x] RRR, [] murmur
Resp: [x] breaths unlabored, [] CTAB, [] wheezing, [] rales
Abdomen: [x] soft, [] distended, [] tender, diffusely [] 
rebound/guarding
Wound: [] incisions clean, dry, intact
Ext: [x] warm, [] tender, [] edema
 
Pertinent Results:
TRAUMA #3 (PORT CHEST ONLY)Study Date of ___
No acute cardiopulmonary process.

CT HEAD W/O CONTRASTStudy Date of ___
1. No acute intracranial abnormality on noncontrast CT head.  
Specifically no acute large territory infarct or intracranial 
hemorrhage.
2. Large extracranial hematoma within the soft tissues overlying 
the right posterior parietal calvarium.  No acute displaced 
calvarial fracture.

CT C-SPINE W/O CONTRASTStudy Date of ___
1. No acute fracture or traumatic malalignment.
2. Status post anterior spinal fusion C4-T1 without evidence of 
hardware failure.
 
CT CHEST W/CONTRASTStudy Date of ___
1. Acute, minimally displaced fracture of the right ninth rib 
and likely acute compression deformity of the T10 vertebral 
body.  No solid organ injury noted.
2. Trace right pleural effusion with underlying atelectasis.
3. Colonic diverticulosis without diverticulitis.
4. Old healed mid sternal fracture, new since ___ 
moderate-sized hiatus hernia containing nonobstructed stomach; 
moderate calcified atherosclerotic plaque throughout the 
abdominal aorta and its branches, without aneurysmal dilation.

TIB/FIB (AP & LAT) LEFTStudy Date of ___
1. Soft tissue swelling, of the ankle joint with the linear 
lucency at the tip of medial malleolus, may represent an subtle 
nondisplaced fracture from avulsion type of injury.
2. 1.9 cm geographic sclerotic region within the distal femoral 
shaft, likely an enchondroma.  

LAB DATA:
___ 08:01AM BLOOD WBC-9.8 RBC-2.78* Hgb-8.6* Hct-26.4* 
MCV-95 MCH-30.9 MCHC-32.6 RDW-12.8 RDWSD-44.7 Plt ___
___ 07:45AM BLOOD ___-7.8 RBC-2.67* Hgb-8.2* Hct-25.8* 
MCV-97 MCH-30.7 MCHC-31.8* RDW-12.9 RDWSD-45.3 Plt ___
___ 07:28AM BLOOD WBC-8.3 RBC-2.58* Hgb-7.9* Hct-25.2* 
MCV-98 MCH-30.6 MCHC-31.3* RDW-13.2 RDWSD-47.3* Plt ___
___ 06:10AM BLOOD WBC-8.8 RBC-2.93* Hgb-8.9* Hct-27.7* 
MCV-95 MCH-30.4 MCHC-32.1 RDW-12.9 RDWSD-44.8 Plt ___
___ 08:19PM BLOOD WBC-16.5* RBC-3.64* Hgb-11.1* Hct-34.7 
MCV-95 MCH-30.5 MCHC-32.0 RDW-12.7 RDWSD-44.9 Plt ___
___ 08:19PM BLOOD Neuts-67.1 ___ Monos-6.8 Eos-0.0* 
Baso-0.6 Im ___ AbsNeut-11.06* AbsLymp-3.85* AbsMono-1.12* 
AbsEos-0.00* AbsBaso-0.10*
___ 07:28AM BLOOD ___ PTT-27.5 ___
___ 06:10AM BLOOD ___ PTT-27.4 ___
___ 08:19PM BLOOD ___ PTT-30.3 ___
___ 08:01AM BLOOD Glucose-99 UreaN-21* Creat-1.1 Na-133* 
K-4.4 Cl-96 HCO3-26 AnGap-11
___ 07:45AM BLOOD Glucose-96 UreaN-27* Creat-1.1 Na-138 
K-4.6 Cl-101 HCO3-26 AnGap-11
___ 07:28AM BLOOD Glucose-97 UreaN-27* Creat-1.4* Na-137 
K-4.6 Cl-102 HCO3-26 AnGap-9*
___ 06:10AM BLOOD UreaN-24* Creat-1.1 Na-138 K-4.3 Cl-104 
HCO3-23 AnGap-11
___ 08:19PM BLOOD Glucose-121* UreaN-29* Creat-1.3* Na-137 
K-4.6 Cl-101 HCO3-21* AnGap-15
___ 08:19PM BLOOD Lipase-23
___ 08:19PM BLOOD cTropnT-<0.01
___ 08:01AM BLOOD Calcium-8.6 Phos-3.2 Mg-2.1
___ 07:45AM BLOOD Calcium-9.0 Phos-4.4 Mg-2.2
___ 07:28AM BLOOD Calcium-8.5 Phos-4.1 Mg-2.2
___ 06:10AM BLOOD Calcium-8.7 Phos-4.6* Mg-2.1
___ 08:19PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-6* 
Tricycl-NEG
___ 08:23PM BLOOD Lactate-1.8
 
Brief Hospital Course:
Patient is a ___ year old female with pmh significant for a fib 
and hypertension. Patient presented to the emergency department 
for evaluation s/p fall with reported head strike and no loss of 
consciousness. Imaging was completed on arrival which 
demonstrated a T10 compression fracture, 9th rib fracture and 
non-displaced fracture of the tip of the L medial malleolus. She 
was then admitted to the inpatient unit for continued evaluation 
and monitoring. 

She was then evaluated by spine surgery and orthopedics who 
recommended non-operative management with weight bearing as 
tolerated and TLSO for comfort. Her ankle fracture also did not 
require surgery or splinting. The patient was offered a walking 
boot for comfort, but denies pain on exam, and stated she did 
not feel it was necessary. Than on ___ she worked with 
physical therapy and they recommended she be discharged to rehab 
once medically cleared. 

During this hospitalization, the patient voided without 
difficulty and ambulated early and frequently with assistance. 
The patient was adherent with respiratory toilet and incentive 
spirometry and actively participated in the plan of care. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay.

At the time of discharge, the patient was doing well. She was 
afebrile and her vital signs were stable. The patient was 
tolerating a regular diet, ambulating, voiding without 
assistance, and her pain was well controlled. The patient was 
discharged to rehab at the recommendation of ___. Discharge 
teaching was completed and follow-up instructions were reviewed 
with reported understanding and agreement.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. amLODIPine 5 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Famotidine 20 mg PO BID 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 
6. Furosemide 40 mg PO DAILY 
7. Levothyroxine Sodium 88 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID 
please limit to 4000mg in 24 hour period.  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation - First Line 
  Reason for PRN duplicate override: Discontinuing Colace 
3.  Heparin 5000 UNIT SC TID 
may discontinue when ambulating frequently.  
4.  Lidocaine 5% Patch 1 PTCH TD QAM 
place x 12 hours, remove x 12 hours  
5.  Polyethylene Glycol 17 g PO DAILY 
hold for loose stool. may discontinue when bowel pattern 
normalizes.  
6.  Senna 8.6 mg PO BID 
hold for loose stool. may discontinue when bowel pattern 
normalizes.  
7.  TraMADol 50 mg PO Q4H:PRN pain 
medication may cause drowsiness 
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*5 Tablet Refills:*0 
8.  Atenolol 25 mg PO DAILY  
9.  amLODIPine 5 mg PO DAILY  
10.  Atorvastatin 10 mg PO QPM  
11.  Famotidine 20 mg PO BID  
12.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
13.  Furosemide 40 mg PO DAILY  
14.  Levothyroxine Sodium 88 mcg PO DAILY  
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Head laceration
T10 compression fracture
9th Rib fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for 
evaluation following a fall. As a result of your fall you 
sustained multiple injuries including a laceration on your head, 
T10 compression fracture of your spine, a fracture of your ___ 
rib, and a non-displaced fracture of your ankle. You are 
recovering well and are now ready for discharge. Please follow 
the instructions below to continue your recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___